US07820664B2
Step G: N-(6-(2-fluoro-4-iodophenylamino)-7-fluoro-2,3-dimethyl-2H-indazol-5-yl)cyclopropanesulfonamide:
To a solution of 5-cyclopropanesulfonyl-8-fluoro-7-(2-fluoro-4-iodophenyl)-2,3-dimethyl-2,7-dihydro-5H-imidazo[4,5-f]indazol-6-one (24 mg, 0.044 mmol) in THF (3 ml) was added potassium trimethylsilanolate (11 mg, 0.088 mmol). The reaction was stirred at room temperature for 5 h, quenched with saturated aqueous NH4Cl solution (5 ml), and extracted with EtOAc (2×10 ml). The combined organic solution was washed with brine (15 ml), dried over MgSO4, and concentrated. Silica gel chromatography (EtOAc:Hexanes=50:50) yielded 19 mg (83%) of the title compound. m/z=517 [M−1]−. 1H NMR (DMSO-d6, 400 MHz): δ 0.78 (m, 4H), 2.48 (m, 1H), 2.68 (s, 3H), 4.13 (s, 3H), 6.38 (m, 1H), 7.32 (d, J=8 Hz, 1H), 7.41 (s, 1H), 7.59 (m, 2H), 9.23 (s, 1H).

reactant | 5-cyclopropanesulfonyl-8-fluoro-7-(2-fluoro-4-iodophenyl)-2,3-dimethyl-2,7-dihydro-5H-imidazo[4,5-f]indazol-6-one | 0.044 mmol, 24 mg | C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N(N=C1C2F)C)C)C2=C(C=C(C=C2)I)F)=O | C19H15F2IN4O3S
reactant | potassium trimethylsilanolate | 0.088 mmol, 11 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(6-(2-fluoro-4-iodophenylamino)-7-fluoro-2,3-dimethyl-2H-indazol-5-yl)cyclopropanesulfonamide | 19 mg, 83% | FC1=C(C=CC(=C1)I)NC=1C(=CC2=C(N(N=C2C1F)C)C)NS(=O)(=O)C1CC1 | C18H17F2IN4O2S
